US07354933B2
0.508 g of sodium borohydride is added portionwise to a solution of 0.524 g of ethyl 2-ethoxypyridine-4-carboxylate in 5.2 ml of ethanol, under an inert atmosphere of argon at a temperature in the region of 0° C. The reaction mixture is refluxed with stirring for 3 hours and then concentrated to dryness under reduced pressure. The residue thus obtained is taken up in 50 ml of dichloromethane and then washed with 50 ml of water. The organic phase is dried over magnesium sulfate, filtered and then concentrated to dryness under reduced pressure. 0.310 g of 2-ethoxy-4-(hydroxymethyl)pyridine is thus obtained.

reactant | sodium borohydride | 0.508 g | [BH4-].[Na+]
reactant | ethyl 2-ethoxypyridine-4-carboxylate | 0.524 g | C(C)OC1=NC=CC(=C1)C(=O)OCC | C10H13NO3
solvent | ethanol | 5.2 ml | C(C)O | C2H6O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2-ethoxy-4-(hydroxymethyl)pyridine | 0.310 g | C(C)OC1=NC=CC(=C1)CO | C8H11NO2
